US04810713
4-[Bis(4-fluorophenyl)methyl]-1-[3-(4-fluorophenoxy)propyl]piperidine
Following the combined procedures of Examples 14 and 16, 4-[bis(4-fluorophenyl)methyl]piperidine and 4-(3-chloropropoxy)-1-fluorobenzene were reacted and worked up by chromatography in Example 16, to give the free base in 53% yield as a yellow oil after drying in vacuo at 80° C. overnight.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 4-(3-chloropropoxy)-1-fluorobenzene | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
product | 4-[Bis(4-fluorophenyl)methyl]-1-[3-(4-fluorophenoxy)propyl]piperidine | 53% yield | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C27H28F3NO
